US04147872
3-methoxy-β-methylstyrene Oxide
To a -78° C. solution of diphenylsulfonium ethylide (1.0 mole) in tetrahydrofuran (one liter) is slowly added 3-methoxybenzaldehyde (1.0 mole). The reaction mixture is stirred at -78° C. for 3 hours and then allowed to warm to room temperature. It is then added to ether-water and the ether phase separated. The ether phase is washed with water, dried (MgSO4) and evaporated. Fractional distillation of the residue gives the title product.

reactant | diphenylsulfonium | C1(=CC=CC=C1)[SH+]C1=CC=CC=C1
reactant | 3-methoxybenzaldehyde | 1.0 mole | COC=1C=C(C=O)C=CC1 | C8H8O2
solvent | tetrahydrofuran | one liter | O1CCCC1 | C4H8O
product | 3-methoxy-β-methylstyrene Oxide | COC=1C=C(C2C(C)O2)C=CC1 | C10H12O2
